US20010014691A1
3-(3-Pyridyloxy)propylamine
The 3-chloro-1-(3-pyridyloxy)propane (1.98 g, 11.6 mmol) was dissolved in methanol (25 mL) and added to concentrated ammonium hydroxide solution (29.7%, 14.8 M, 55 mL) in a heavy-walled glass pressure-tube apparatus. The tube was sealed and the mixture was stirred and heated at 100° C. (oil bath temperature) for 6 h. After cooling, the mixture was concentrated by rotary evaporation. Saturated NaCl solution (10 mL) was added to the residue, and the solution (pH 6) was extracted with ether (3×25 mL) to remove impurities. The aqueous layer was basified to pH 10 with 10% NaOH solution, and the mixture was extracted with chloroform (4×25 mL). The combined chloroform extracts were dried (Na2SO4), filtered, and concentrated by rotary evaporation to a residue that was dried briefly under high vacuum to give 0.354 g (20.1%) of an oil.

reactant | 3-chloro-1-(3-pyridyloxy)propane | 11.6 mmol, 1.98 g | ClCCCOC=1C=NC=CC1 | C8H10ClNO
reactant | ammonium hydroxide | 14.8 M, 55 mL | [OH-].[NH4+]
solvent | methanol | 25 mL | CO | CH4O
product | 3-(3-Pyridyloxy)propylamine | 0.354 g, 20.1% | N1=CC(=CC=C1)OCCCN | C8H12N2O
